US04446323
1,2,3,3a-tetrahydro-5-(phenylmethyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one
Following the procedure of Example 2, 1,2,3,3a-tetrahydropyrrolo[1,2-a]quinoxalin-4(5H)-one is reacted with benzyl chloride to afford the title compound, m.p. 156°-157° C.

reactant | 1,2,3,3a-tetrahydropyrrolo[1,2-a]quinoxalin-4(5H)-one | C1CCC2N1C1=CC=CC=C1NC2=O | C11H12N2O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1,2,3,3a-tetrahydro-5-(phenylmethyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one | C1(=CC=CC=C1)CN1C(C2N(C3=CC=CC=C13)CCC2)=O | C18H18N2O
